US06747147B2
Step 1: 6-Chloro-3-(3-fluoro-benzyl)-3H-pyrido[3,4-d]pyrimidin-4-one
The starting material, 6-chloro-3H-pyrido[3,4-d]pyrimidin-4one (710 mg, 3.92 mmol, prepared according to J. Chem. Soc., Perkin Trans. 1996, 1, 2221) is dissolved in DMF (20 ml). Cs2CO3 (1.66 g, 5.1 mmol) and 3-flurobenzylchloride (737 mg, 5.1 mmol) are added subsequently. The reaction is stirred at room temperature overnight, poured into water. After extraction with CH2Cl2, the organic layer is washed with H2O and brine, dried (Na2SO4) and filtered. After removal of the solvents, the residue is purified via a flash chromatography to give the product as a white solid.

reactant | 6-chloro-3H-pyrido[3,4-d]pyrimidin-4one | 3.92 mmol, 710 mg | ClC1=CC2=C(N=CNC2=O)C=N1 | C7H4ClN3O
reactant | Cs2CO3 | 5.1 mmol, 1.66 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-flurobenzylchloride | 5.1 mmol, 737 mg | FC=1C=C(CCl)C=CC1 | C7H6ClF
reactant | water | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 6-Chloro-3-(3-fluoro-benzyl)-3H-pyrido[3,4-d]pyrimidin-4-one | ClC1=CC2=C(N=CN(C2=O)CC2=CC(=CC=C2)F)C=N1 | C14H9ClFN3O
